US06288082B1
Methyl 4-benzyloxy-2-(dimethylaminomethyleneamino)-5-methoxybenzoate
A stirred mixture of 70.0 g (244 mmol) of methyl 2-amino-4-benzyloxy-5-methoxybenzoate (Phytochemistry 1976, 15, 1095) and 52 ml of dimethylformamide dimethyl acetal was heated at 100° C. for 1.5 h, cooled, and evaporated directly under high vacuum to give 81.3 g of off-white solid, mp 134-140° C.; NMR (CDCl3) d 3.01 (s, Me2N).

reactant | methyl 2-amino-4-benzyloxy-5-methoxybenzoate | 244 mmol, 70.0 g | NC1=C(C(=O)OC)C=C(C(=C1)OCC1=CC=CC=C1)OC | C16H17NO4
reactant | dimethylformamide dimethyl acetal | 52 ml | COC(N(C)C)OC | C5H13NO2
product | Methyl 4-benzyloxy-2-(dimethylaminomethyleneamino)-5-methoxybenzoate | 81.3 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1OC)N=CN(C)C | C19H22N2O4
